US07858640B2
[2-chloro-3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of 2-chloro-3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-ol (1.7 g), N,N-dimethylformamide (25 mL), potassium carbonate (2.1 g) and bromoacetic acid methyl ester (1.1 g) was stirred at 60° C. overnight. The mixture was cooled to room temperature, diluted with water and the resulting precipitate collected by filtration, washed with water and then dried to afford title compound, 0.53 g.

reactant | 2-chloro-3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-ol | 1.7 g | ClC1=NC=2C=C(C=C(C2C(=C1CC1=CC=C(C=C1)Cl)C)O)C | C18H15Cl2NO
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 1.1 g | COC(CBr)=O | C3H5BrO2
solvent | water | O | H2O
product | [2-chloro-3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=CC(=C1)C)Cl)CC1=CC=C(C=C1)Cl)C)=O | C21H19Cl2NO3
